US08895547B2
2-(4-Bromophenyl)-3-hydroxy-3-methylbutane-2-sulfonamide
Under inert gas, 2.58 g of N-(2,4-dimethoxybenzyl)-1-(4-bromophenyl)ethanesulfonamide was initially charged in 40 ml of THF, and then, at a temperature of −78° C., 7.90 ml of a 1.6 N methyllithium solution in diethyl ether were added dropwise and the mixture was stirred at constant temperature for 10 minutes. Subsequently, 2.47 ml of acetone were added. After stirring for 15 minutes, the reaction solution was admixed with 0.96 ml of trifluoroacetic acid and allowed to warm up to room temperature. After the removal of the solvent under reduced pressure, the residue was dissolved in 50 ml of dichloromethane, 10 ml of trifluoroacetic acid were added and the mixture was stirred at room temperature for 1 hour. 100 ml of methanol were added to the reaction solution and the solvent was concentrated by rotary evaporation. The crude product was purified by filtration through a silica gel column. The column was washed through with ethyl acetate until no further product eluted. The eluate was concentrated by rotary evaporation and the residue (2.01 g) was used in the next reaction without further purification.

reactant | N-(2,4-dimethoxybenzyl)-1-(4-bromophenyl)ethanesulfonamide | 2.58 g | COC1=C(CNS(=O)(=O)C(C)C2=CC=C(C=C2)Br)C=CC(=C1)OC | C17H20BrNO4S
reactant | methyllithium | 1.6 N | C[Li]
reactant | acetone | 2.47 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 0.96 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-Bromophenyl)-3-hydroxy-3-methylbutane-2-sulfonamide | BrC1=CC=C(C=C1)C(C)(C(C)(C)O)S(=O)(=O)N | C11H16BrNO3S
